US06982348B2
5) (1RS,2RS)-2-amino-1-(5-chloro-2-thienyl)-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propan-1-ol
(4RS,5RS)-5-(5-Chloro-2-thienyl)-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one (8.480 g, 20.69 mmol) and sodium hydroxide (3.31 g, 82.8 mmol) were heated in ethanol (40 ml)-water (3 ml) under reflux for 4 hrs. The reaction solution was diluted with brine, and extracted twice with ethyl acetate. The recovered organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel (APS type) column chromatography (hexane/ethyl acetate=3/1-ethyl acetate) to give the objective substance.

reactant | (4RS,5RS)-5-(5-Chloro-2-thienyl)-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one | 20.69 mmol, 8.480 g | ClC1=CC=C(S1)C1C(NC(O1)=O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C16H12ClF4NO3S
reactant | sodium hydroxide | 82.8 mmol, 3.31 g | [OH-].[Na+]
reactant | water | 3 ml | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
product | (1RS,2RS)-2-amino-1-(5-chloro-2-thienyl)-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propan-1-ol | NC(C(O)C=1SC(=CC1)Cl)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C15H14ClF4NO2S
